US06617332B1
3.80 g (22.4 mmol) of ethyl 5-cyano-3-oxopentanoate were taken up in 5 ml of a saturated ethanolic ammonia solution and stirred at room temperature for 24 h. The volatile components were distilled off using a rotary evaporator, giving 3.60 g (95%) of ethyl 3-amino-5-cyano-2-pentenoate. 1H-NMR (300 MHz, DMSO) 1.16 (t, 3H), 2.37 (t, 2H), 2.75 (t, 2H), 3.99 (q, 2H), 4.41 (s, 1H), 6.96 (s, broad, 1H), 7.69 (s, broad, 1H). MS (DCI/NH3): 169 (M+H)+, 186 (M+NH4)+, 337 (2M+H)+.

reactant | ethyl 5-cyano-3-oxopentanoate | 22.4 mmol, 3.80 g | C(#N)CCC(CC(=O)OCC)=O | C8H11NO3
reactant | ammonia | 5 ml | N | H3N
product | ethyl 3-amino-5-cyano-2-pentenoate | 3.60 g, 95% | NC(=CC(=O)OCC)CCC#N | C8H12N2O2
